US07312236B2
(4-(3-Bromo-2-fluoro-phenyl)-cyclohex-3-enyl)-dimethyl-amine
Heat 1-(3-bromo-2-fluoro-phenyl)-4-dimethylamino-cyclohexanol (preparation 6, 2.04 g, 6.45 mmol) and p-TsOH monohydrate (3.07 g, 16 mmol) in toluene (50 mL) at reflux for 2 hr. Partition the reaction mixture between saturated aqueous NaCl and ethyl acetate, dry the organic phase with anhydrous sodium sulfate, evaporate the solvent, and purify the residue by chromatography on a silica gel column (DCM: 2M NH3 in MeOH, gradient) to give the title product (1.70 g): MS (ES): m/z=300 (M+H)+ and 298 (M−H)−. 1HNMR (CDCl3): δ 7.39 (m, 1H), 7.14 (m, 1H), 6.94 (m, 1H), 5.88 (m, 1H), 2.60-2.38 (m, 4H), 2.35 (s, 6H), 2.20 (m, 1H), 2.08 (m, 1H), 1.56 (m, 1H).

reactant | 1-(3-bromo-2-fluoro-phenyl)-4-dimethylamino-cyclohexanol | 6.45 mmol, 2.04 g | BrC=1C(=C(C=CC1)C1(CCC(CC1)N(C)C)O)F | C14H19BrFNO
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | (4-(3-Bromo-2-fluoro-phenyl)-cyclohex-3-enyl)-dimethyl-amine | 1.70 g | BrC=1C(=C(C=CC1)C1=CCC(CC1)N(C)C)F | C14H17BrFN
